US08629143B2
4-isopropyl-1-chloro-5,6,7,8-tetrahydro-5,8-ethanophthalazine
A solution of 1,4-dichloro-5,6,7,8-tetrahydro-5,8-ethanophthalazine (Alfa Aesar) (0.109 g, 0.474 mmol), iPr2Zn (1 M in toluene, 0.50 mL, 0.50 mmol), PdCl2dppf CH2Cl2 (19.3 mg, 0.024 mmol) in dioxane (1.5 mL) was stirred at 80° C. for 2.5 hours, quenched with 1 N HCl, diluted with EtOAc, washed with saturated aqueous NaHCO3 and brine, dried (Na2SO4), and filtered. The residue was chromatographed on SiO2 (10% Et2O/CH2Cl2 to 5% MeOH/CH2Cl2) to give impure title compound as a tacky solid (34.9 mg). LC/MS (APCI) M/Z 237.1 (M+H)+.

reactant | 1,4-dichloro-5,6,7,8-tetrahydro-5,8-ethanophthalazine | 0.474 mmol, 0.109 g | ClC1=NN=C(C=2C3CCC(C12)CC3)Cl | C10H10Cl2N2
reactant | iPr2Zn | 0.50 mmol, 1 M, 0.50 mL | [Zn](C(C)C)C(C)C
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-isopropyl-1-chloro-5,6,7,8-tetrahydro-5,8-ethanophthalazine | C(C)(C)C1=NN=C(C=2C3CCC(C12)CC3)Cl | C13H17ClN2
